US04107326
1-(2,6-Dichlorobenzylideneamino)-3-(1-phenylcyclopropylmethyl)guanidine
A solution of 7.80 g. of methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydroiodide and 4.37 of 1-phenylcyclopropanemethylamine in 100 ml. of n-butanol and 25 ml. of water is heated at reflux for 24 hours. The solution is cooled, diluted with water to a final volume of 2 liters and is allowed to stand. Filtration gives a tan solid which is dissolved in ethyl acetate and purified by silica gel column chromatography. Crystallization of the product from diethyl ether gives the desired final product as colorless crystals, m.p. 136.5°-138.5° C.

reactant | methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydroiodide | I.ClC1=C(C=NNC(SC)=N)C(=CC=C1)Cl
reactant | 1-phenylcyclopropanemethylamine | C1(=CC=CC=C1)C1(CC1)CN | C10H13N
reactant | n-butanol | C(CCC)O | C4H10O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-Dichlorobenzylideneamino)-3-(1-phenylcyclopropylmethyl)guanidine | ClC1=C(C=NNC(=N)NCC2(CC2)C2=CC=CC=C2)C(=CC=C1)Cl | C18H18Cl2N4
